* File: xor.pex.netlist.pex
* Created: Mon May 20 13:53:53 2024
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%B 7 12 15 18 44
c0 44 0 0.10867f
c1 41 0 0.157414f
c2 40 0 0.179345f
c3 39 0 0.03526f
c4 29 0 0.0773034f
c5 27 0 0.202563f
c6 24 0 0.124204f
c7 20 0 0.092138f
c8 15 0 0.500234f
c9 12 0 0.125597f
c10 7 0 0.188337f
r11 39 41 0.0338265
r12 39 40 8
r13 35 41 0.26
r14 35 36 8
r15 30 40 0.0567368
r16 29 31 8.07022
r17 29 30 13.2552
r18 27 36 0.0585774
r19 26 27 13.2552
r20 24 26 7.56302
r21 20 23 8.32303
r22 20 22 8.32303
r23 20 44 13.2552
r24 18 31 35
r25 15 18 144
r26 12 23 50.5
r27 10 24 4.79082
r28 10 12 35
r29 7 22 70
.ends

.subckt PM_XOR%A 7 9 16 19 43
c0 43 0 0.0746803f
c1 40 0 0.177202f
c2 39 0 0.203536f
c3 30 0 0.117644f
c4 26 0 0.117134f
c5 23 0 0.237909f
c6 22 0 0.0841245f
c7 19 0 0.110506f
c8 16 0 0.264133f
c9 12 0 0.0198701f
c10 11 0 0.0334437f
c11 7 0 0.53281f
r12 39 40 8
r13 35 39 0.291173
r14 35 36 8
r15 30 33 8.4782
r16 30 32 8.4782
r17 30 43 13.2552
r18 27 40 0.0560291
r19 26 27 13.2552
r20 23 36 0.0582121
r21 22 24 2.98065
r22 22 23 13.2552
r23 19 33 40.25
r24 16 32 79.25
r25 13 26 12.5431
r26 13 16 46.5
r27 11 24 4.6844
r28 11 12 14.5
r29 7 9 144
r30 5 12 5.02856
r31 5 7 46
.ends

.subckt PM_XOR%Y 13 14 18 19 26
c0 26 0 0.226304f
c1 22 0 0.168149f
c2 17 0 0.311203f
c3 9 0 0.03266f
c4 5 0 0.292464f
c5 4 0 0.0454495f
c6 3 0 0.0601484f
r7 21 22 16.3327
r8 19 21 4.59
r9 18 21 4.59
r10 16 17 8.16635
r11 14 16 2.295
r12 13 16 2.295
r13 12 26 0.26067
r14 11 12 8
r15 8 17 0.453478
r16 8 9 0.00770322
r17 7 22 0.282739
r18 6 9 0.0296412
r19 5 11 0.0540395
r20 5 6 0.381957
r21 4 7 0.039111
r22 3 9 0.0296412
r23 3 4 0.14
.ends

.subckt PM_XOR%B2 7 12 19 23
c0 27 0 0.140009f
c1 26 0 0.148034f
c2 23 0 0.195906f
c3 19 0 0.250114f
c4 15 0 0.169353f
c5 10 0 0.176311f
c6 6 0 0.0351106f
c7 2 0 0.151758f
r8 26 29 8.32303
r9 26 28 8.32303
r10 26 27 13.2552
r11 23 29 50.5
r12 19 28 70
r13 14 15 16.3327
r14 12 14 4.59
r15 9 10 8.16635
r16 7 9 2.295
r17 5 10 0.27087
r18 5 6 0.0296412
r19 4 15 0.465348
r20 4 6 0.0296412
r21 3 6 0.00770322
r22 2 27 0.0562684
r23 2 3 0.526522
.ends

.subckt PM_XOR%noxref_5 2 3
c0 5 0 0.147204f
r1 3 5 2.295
r2 2 5 2.295
.ends

.subckt PM_XOR%noxref_6 2 3
c0 5 0 0.134413f
r1 3 5 2.295
r2 2 5 2.295
.ends

.subckt PM_XOR%noxref_7 10 15 16 20
c0 23 0 0.066193f
c1 19 0 0.110425f
c2 13 0 0.0613313f
c3 5 0 0.0524769f
c4 4 0 0.244384f
c5 3 0 0.0241924f
c6 2 0 0.218616f
r7 22 23 16.3327
r8 20 22 4.59
r9 18 19 16.3327
r10 16 18 4.59
r11 15 18 4.59
r12 12 13 16.3327
r13 10 12 4.59
r14 9 23 0.139696
r15 8 19 0.139696
r16 7 19 0.134217
r17 6 13 0.134217
r18 5 8 0.039111
r19 4 9 0.039111
r20 4 5 0.35
r21 3 6 0.039111
r22 2 7 0.039111
r23 2 3 0.35
.ends

.subckt PM_XOR%A2 7 12 19 23
c0 26 0 0.0775489f
c1 23 0 0.12782f
c2 19 0 0.258521f
c3 15 0 0.234052f
c4 10 0 0.123682f
c5 6 0 0.0341174f
c6 3 0 0.0955684f
c7 2 0 0.113437f
r8 26 29 8.0852
r9 26 28 8.0852
r10 26 27 13.2552
r11 23 29 35.25
r12 19 28 85.25
r13 14 15 16.3327
r14 12 14 4.59
r15 9 10 8.16635
r16 7 9 2.295
r17 5 10 0.178043
r18 5 6 0.0296412
r19 4 15 0.558174
r20 4 6 0.0296412
r21 3 27 0.0548398
r22 2 6 0.00770322
r23 2 3 0.35
.ends

.subckt PM_XOR%GND 9 10 32 37 38 42
c0 45 0 0.153203f
c1 41 0 0.275525f
c2 35 0 0.140037f
c3 7 0 2.45203e-23
c4 6 0 0.107176f
c5 4 0 0.124082f
r6 44 45 16.3327
r7 42 44 4.59
r8 40 41 16.3327
r9 38 40 4.59
r10 37 40 4.59
r11 35 47 0.499435
r12 34 35 16.3327
r13 32 34 4.572
r14 29 30 5.44423
r15 27 30 0.438261
r16 26 29 27.5745
r17 26 27 5.44423
r18 20 23 0.292174
r19 19 20 5.44423
r20 17 20 0.438261
r21 17 54 0.257174
r22 16 19 27.5745
r23 16 17 5.44423
r24 13 47 0.0195555
r25 13 54 0.0195555
r26 12 16 18.3638
r27 12 13 16.3327
r28 10 26 27.5745
r29 10 19 18.383
r30 10 23 8.16635
r31 7 45 0.488809
r32 7 9 0.0194486
r33 6 30 0.127826
r34 6 9 0.0196683
r35 4 23 0.164348
r36 4 5 0.0435722
r37 3 27 0.159783
r38 3 5 0.0435722
r39 2 41 0.30632
r40 2 5 0.00196586
.ends

.subckt PM_XOR%VDD 9 10 11 16 21 26
c0 64 0 5.21656e-19
c1 56 0 0.101494f
c2 29 0 0.138702f
c3 24 0 0.171573f
c4 19 0 0.181831f
c5 14 0 0.16164f
c6 7 0 2.31402e-19
c7 6 0 0.0221794f
c8 4 0 0.117744f
r9 53 54 8.16635
r10 51 54 0.292174
r11 50 53 18.383
r12 50 51 5.44423
r13 47 50 27.5745
r14 47 48 8.16635
r15 43 48 0.292174
r16 43 59 0.229783
r17 42 43 5.44423
r18 40 66 0.00770322
r19 40 56 0.0296412
r20 40 59 0.0296412
r21 39 42 18.383
r22 39 40 16.3327
r23 37 56 0.284565
r24 37 57 0.257174
r25 36 39 18.383
r26 36 37 5.44423
r27 33 64 0.0195555
r28 33 57 0.0195555
r29 32 36 18.3638
r30 32 33 16.3327
r31 28 29 8.16635
r32 26 28 2.295
r33 23 24 8.16635
r34 21 23 2.295
r35 19 66 0.506739
r36 18 19 8.16635
r37 16 18 2.295
r38 14 64 0.506739
r39 13 14 8.16635
r40 11 13 2.286
r41 10 47 9.19149
r42 10 42 9.19149
r43 7 29 0.506739
r44 7 9 0.0195555
r45 6 54 0.129348
r46 6 9 0.0195555
r47 4 48 0.248043
r48 4 5 0.0296412
r49 3 51 0.120217
r50 3 5 0.0296412
r51 2 24 0.506739
r52 2 5 0.00770322
.ends

